US08258130B2
A mixture of 3-methyl-pyrrolo[2,3-c]pyridin-1-ylamine (224 mg, 1.53 mmol), 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (354 mg, 1.53 mmol), HATU (693 mg, 1.82 mmol) and DIPEA (593 mg, 4.59 mmol) in DMF (8 mL) is stirred at 1500 C. for 1 h. The reaction is quenched with water, extracted with EtOAc. The organic layer is dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 0-100% EtOAc in heptane to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (3-methyl-pyrrolo[2,3-c]pyridin-1-yl)-amide (55 mg). MS: 362 (M+H); 1H NMR (300 MHz, CD3OD): δ 9.15 (s, 1H), 8.69 (s, 1H), 8.37 (d, 1H), 8.24 (s, 1H), 8.20 (d, 1H), 7.68 (d, 1H), 7.55 (q, 1H), 7.47 (s, 1H), 7.29 (t, 1H), 2.84(s, 3H), 2.39 (s, 3H).

reactant | 3-methyl-pyrrolo[2,3-c]pyridin-1-ylamine | 1.53 mmol, 224 mg | CC1=CN(C2=CN=CC=C21)N | C8H9N3
reactant | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid | 1.53 mmol, 354 mg | FC=1C=C(C=CC1)C1=NC=C(C(=N1)C)C(=O)O | C12H9FN2O2
reactant | HATU | 1.82 mmol, 693 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 4.59 mmol, 593 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (3-methyl-pyrrolo[2,3-c]pyridin-1-yl)-amide | 55 mg | CC1=CN(C2=CN=CC=C21)NC(=O)C=2C(=NC(=NC2)C2=CC(=CC=C2)F)C | C20H16FN5O
